US05849930
Synthesis of N-(1,2-diethyl-4-pyrazolidinyl)-2-geranyloxybenzamide
2-geranyloxybenzoic acid (1.36 g) was dissolved in dichloromethan (20 ml) and 1-hydroxybenzotriazole (0.80 g) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (1.14 g) were added thereto while being cooled with ice. After the resulting mixture was stirred for 30 minutes, 4-amino-1,2-diethyl pyrazolidine (0.71 g) was added thereto and the mixture was stirred for one night at room temperature. The reaction liquid was washed with brine and then dried over sodium sulfite anhydride. Thereafter, the solvent was evaporated under a vacuum. The residue was purified by silica gel column-m chromatography (chloroform:methanol=30:1), thereby yielding 1.71 g (87%) of the aimed compound.

reactant | 2-geranyloxybenzoic acid | 1.36 g | C(\C=C(/C)\CCC=C(C)C)OC1=C(C(=O)O)C=CC=C1 | C17H22O3
reactant | 1-hydroxybenzotriazole | 0.80 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 1.14 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-amino-1,2-diethyl pyrazolidine | 0.71 g | NC1CN(N(C1)CC)CC | C7H17N3
solvent | dichloromethan | 20 ml | ClCCl | CH2Cl2
product | N-(1,2-diethyl-4-pyrazolidinyl)-2-geranyloxybenzamide | 1.71 g, 87% | C(C)N1N(CC(C1)NC(C1=C(C=CC=C1)OC\C=C(/C)\CCC=C(C)C)=O)CC | C24H37N3O2
